US04585876
1 g (3.7 mmol) of 4-chlorophthalic acid N-benzylimide, 1.46 g of disodium thiosalicylate and 10 ml of DMF are refluxed for 4 hours. After evaporation, the residue is taken up in NaHCO3 solution, this mixture is extracted with THF/toluene, the extracts are discarded and the aqueous phase is then acidified, and the intermediate is extracted with THF/toluene. Evaporation gives crude 4-(2-carboxyphenylthio)-phthalic acid N-benzylimide. This is stirred with 14.8 g of polyphosphoric acid at 200° C. for 30 minutes. The mixture is cooled, stirred with water and brought up pH 8 and the precipitate is filtered off and dried. The crude product is chromatographed over silica gel using methylene chloride. The two products formed are thereby separated:

reactant | 4-chlorophthalic acid N-benzylimide | 3.7 mmol, 1 g | C(C1=CC=CC=C1)N=C(C=1C(C(=O)O)=CC(=CC1)Cl)O | C15H12ClNO3
reactant | disodium thiosalicylate | 1.46 g | C(C=1C(S)=CC=CC1)(=O)[O-].[Na+].[Na+].C(C=1C(S)=CC=CC1)(=O)[O-]
solvent | DMF | 10 ml | CN(C)C=O | C3H7NO
product | 4-(2-carboxyphenylthio)-phthalic acid N-benzylimide | C(C1=CC=CC=C1)N=C(C=1C(C(=O)O)=CC(=CC1)SC1=C(C=CC=C1)C(=O)O)O | C22H17NO5S
